US05134148
Using the procedure described in the first paragraph of Note c. below Table I in Example 2, benzyl alcohol was reacted with 3,5-dinitroiodobenzene to give 3-benzyloxy-5-nitroiodobenzene in 54% yield, m.p. 79°-80° C.

reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | 3,5-dinitroiodobenzene | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])I | C6H3IN2O4
product | 3-benzyloxy-5-nitroiodobenzene | 54% yield | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)[N+](=O)[O-])I | C13H10INO3
